### PR TITLE
feat: proper recursive specialization

### LINKED ISSUE #10924: The specialization pass does not specialize for oversaturating arguments
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Specialization does not appear to specialize for oversaturating arguments of a call to a function with a `@[specialize]` annotation.

### Steps to Reproduce

```lean
@[specialize]
def foo {α} : Nat → (α → α) → α → α 
  | 0, f, a => f a 
  | n+1, f, a => foo n f a

-- The following example demonstrates that `f` is properly specialized:
set_option trace.Compiler.saveBase true in
/--
trace: [Compiler.saveBase] size: 6
    def foo._at_._example.spec_0 x.1 x.2 : Nat :=
      cases x.1 : Nat
      | Nat.zero =>
        let _x.3 := 1;
        let _x.4 := Nat.add x.2 _x.3;
        return _x.4
      | Nat.succ n.5 =>
        let _x.6 := foo._at_._example.spec_0 n.5 x.2;
        return _x.6
[Compiler.saveBase] size: 2
    def _example n : Nat :=
      let _x.1 := 5;
      let _x.2 := foo._at_._example.spec_0 n _x.1;
      return _x.2
-/
#guard_msgs in
example {n} := foo n (· + 1) 5

-- The following example demonstrates that while `f` is properly specialized, `a` is not:
set_option trace.Compiler.saveBase true in
/--
trace: [Compiler.saveBase] size: 6
    def foo._at_._example.spec_0 x.1 x.2 _y.3 : Nat :=
      cases x.1 : Nat
      | Nat.zero =>
        let _x.4 := x.2 _y.3;
        let _x.5 := x.2 _x.4;
        return _x.5
      | Nat.succ n.6 =>
        let _x.7 := foo._at_._example.spec_0 n.6 x.2 _y.3;
        return _x.7
[Compiler.saveBase] size: 4
    def _example n : Nat :=
      fun _f.1 x.2 : Nat :=
        let _x.3 := 1;
        let _x.4 := Nat.add x.2 _x.3;
        return _x.4;
      let _x.5 := 5;
      let _x.6 := foo._at_._example.spec_0 n _f.1 _x.5;
      return _x.6
-/
#guard_msgs in
example {n} := foo n (fun f a => f (f a)) (· + 1) 5
```

**Expected behavior:** `foo` is specialized not only for `(fun f a => f (f a))` but also for `(· + 1)`.

**Actual behavior:** `foo` is specialized for `(fun f a => f (f a))` but not for `(· + 1)`.

### Versions

Lean 4.26.0-nightly-2025-10-22
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by hargoniX**
This PR enables the specializer to also recursively specialize in some non trivial higher order situations.

The main motivation for this change is the upcoming changes to do notation by sgraf. In there he uses combinators such as
```lean
@[specialize, expose]
def List.newForIn {α β γ} (l : List α) (b : β) (kcons : α → (β → γ) → β → γ) (knil : β → γ) : γ :=
  match l with
  | []     => knil b
  | a :: l => kcons a (l.newForIn · kcons knil) b
```
in programs such as
```lean
def testing :=
  let x := 42;
  List.newForIn (β := Nat) (γ := Id Nat)
    [1,2,3]
    x
    (fun i kcontinue s =>
      let x := s;
      List.newForIn
        [i:10].toList x
        (fun j kcontinue s =>
          let x := s;
          let x := x + i + j;
          kcontinue x)
        kcontinue)
    pure
```
inspecting this IR right before we get to the specializer in the current compiler we get:
```
[Compiler.eagerLambdaLifting] size: 22
    def testing : Nat :=
      fun _f.1 _y.2 : Nat :=
        return _y.2;
      let x := 42;
      let _x.3 := 1;
      fun _f.4 i kcontinue s : Nat :=
        fun _f.5 j kcontinue s : Nat :=
          let _x.6 := Nat.add s i;
          let x := Nat.add _x.6 j;
          let _x.7 := kcontinue x;
          return _x.7;
        let _x.8 := 10;
        let _x.9 := Nat.sub _x.8 i;
        let _x.10 := Nat.add _x.9 _x.3;
        let _x.11 := 1;
        let _x.12 := Nat.sub _x.10 _x.11;
        let _x.13 := Nat.mul _x.3 _x.12;
        let _x.14 := Nat.add i _x.13;
        let _x.15 := @List.nil _;
        let _x.16 := List.range'TR.go _x.3 _x.12 _x.14 _x.15;
        let _x.17 := @List.newForIn _ _ _ _x.16 s _f.5 kcontinue;
        return _x.17;
      let _x.18 := 2;
      let _x.19 := 3;
      let _x.20 := @List.nil _;
      let _x.21 := @List.cons _ _x.19 _x.20;
      let _x.22 := @List.cons _ _x.18 _x.21;
      let _x.23 := @List.cons _ _x.3 _x.22;
      let _x.24 := @List.newForIn _ _ _ _x.23 x _f.4 _f.1;
      return _x.24 
```
Here the `kcontinue` higher order functions pose a special challenge because they delay the discovery of new specialization opportunities. Inspecting the IR after the current specializer (and a cleanup simp step) we get functions that look as follows:
```
 [simp] size: 7
      def List.newForIn._at_.testing.spec_0 i kcontinue l b : Nat :=
        cases l : Nat
        | List.nil =>
          let _x.1 := kcontinue b;
          return _x.1
        | List.cons head.2 tail.3 =>
          let _x.4 := Nat.add b i;
          let x := Nat.add _x.4 head.2;
          let _x.5 := List.newForIn._at_.testing.spec_0 i kcontinue tail.3 x;
          return _x.5 
  [simp] size: 14
      def List.newForIn._at_.List.newForIn._at_.testing.spec_1.spec_1 _x.1 l b : Nat :=
        cases l : Nat
        | List.nil =>
          return b
        | List.cons head.2 tail.3 =>
          fun _f.4 x.5 : Nat :=
            let _x.6 := List.newForIn._at_.List.newForIn._at_.testing.spec_1.spec_1 _x.1 tail.3 x.5;
            return _x.6;
          let _x.7 := 10;
          let _x.8 := Nat.sub _x.7 head.2;
          let _x.9 := Nat.add _x.8 _x.1;
          let _x.10 := 1;
          let _x.11 := Nat.sub _x.9 _x.10;
          let _x.12 := Nat.mul _x.1 _x.11;
          let _x.13 := Nat.add head.2 _x.12;
          let _x.14 := @List.nil _;
          let _x.15 := List.range'TR.go _x.1 _x.11 _x.13 _x.14;
          let _x.16 := List.newForIn._at_.testing.spec_0 head.2 _f.4 _x.15 b;
          return _x.16
```
Observe that the specializer decided to abstract over `kcontinue` instead of specializing further recursively. Thus this tight loop is now going through an indirect call.

This PR now changes the specializer somewhat fundamentally to handle situations like this. The most notable change is going to a fixpoint loop of:
1. Specialize all current declarations in the worklist
2. If a declaration
    - succeeded in specializing run the simplifier on it and put it back onto the worklist
    - if it didn't don't put it back onto the worklist anymore
3. Put all newly generated specialisations on the worklist
4. Recompute fixed parameters for the current SCC
5. Repeat until the worklist is empty

Furthermore, declarations that were already specialized:
- only consider `fixedHO` parameters for specialization, in order to avoid termination issues with repeated specialization and abstraction of type class parameters under binders
- recursively specialized declarations only allow specialization if at least one of their fixedHO arguments is not a parameter itself. The reason for allowing this in first generation specialization is that we refrain from specializing inside the body of a declaration marked as `@[specialize]`. Thus we need to specialize them even if their arguments don't actually contain anything of interest in order to ensure that type classes etc. are correctly cleaned up within their bodies.

There is one last trade-off to consider. When specializing code generated by the new do elaborator we sometimes generate intermediate specializations that are not actually part of any call graph after we are done specializing. We could in principle detect these functions and delete them but having them in cache is potentially helpful for further specializations later. Once the new do elaborator lands we plan to test this trade-off.

Closes #10924

### CODE REVIEW

**Comment by hargoniX** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/fd5b87db61ee3c9a5337f813c1118e247e9563ec?reference=0e83422fb6337985c3354c263a9510cbcb4b1e05) for fd5b87db61ee3c9a5337f813c1118e247e9563ec against 0e83422fb6337985c3354c263a9510cbcb4b1e05 are in! @hargoniX
<details open>
<summary>Major changes (72)</summary>

- ✅ `Init.Data.BitVec.Lemmas re-elab//instructions`: **-11.1G** (**-1.3%**)
- 🟥 `Init.Data.BitVec.Lemmas//instructions`: **+11.6G** (**+7.8%**)
- 🟥 `Init.Data.List.Basic re-elab//instructions`: **+9.5G** (**+5.8%**)
- 🟥 `Init.Data.List.Sublist async//instructions`: **+889.8M** (**+7.4%**)
- 🟥 `Init.Data.List.Sublist re-elab -j4 (watchdog rss)//instructions`: **+6.6G** (**+3.5%**)
- 🟥 `Init.Data.List.Sublist re-elab -j4//instructions`: **+18.6G** (**+5.4%**)
- 🟥 `Init.Prelude async//instructions`: **+858.2M** (**+7.0%**)
- 🟥 `Std.Data.DHashMap.Internal.RawLemmas//instructions`: **+19.6G** (**+8.2%**)
- 🟥 `Std.Data.Internal.List.Associative//instructions`: **+6.5G** (**+7.7%**)
- 🟥 `big_beq//instructions`: **+640.5M** (**+5.6%**)
- 🟥 `big_beq_rec//instructions`: **+1.5G** (**+7.4%**)
- 🟥 `big_deceq//instructions`: **+136.3M** (**+2.6%**)
- 🟥 `big_deceq_rec//instructions`: **+283.6M** (**+4.0%**)
- 🟥 `big_do//instructions`: **+1.5G** (**+5.1%**)
- 🟥 `big_match//instructions`: **+667.8M** (**+5.6%**)
- 🟥 `big_match_partial//instructions`: **+1.1G** (**+6.5%**)
- 🟥 `big_omega.lean MT//instructions`: **+1.9G** (**+7.2%**)
- 🟥 `big_omega.lean//instructions`: **+1.8G** (**+7.2%**)
- 🟥 `binarytrees.st//instructions`: **+6.8G** (**+11.6%**)
- 🟥 `binarytrees//instructions`: **+6.8G** (**+11.5%**)
- 🟥 `build//instructions`: **+41.0G** (**+0.3%**)
- 🟥 `bv_decide_inequality.lean//instructions`: **+3.1G** (**+2.8%**)
- 🟥 `bv_decide_large_aig.lean//instructions`: **+1.5G** (**+3.4%**)
- 🟥 `bv_decide_mod//instructions`: **+7.4G** (**+3.3%**)
- 🟥 `bv_decide_mul//instructions`: **+1.7G** (**+3.8%**)
- 🟥 `bv_decide_realworld//instructions`: **+916.9M** (**+3.6%**)
- 🟥 `bv_decide_rewriter.lean//instructions`: **+1.2G** (**+6.6%**)
- ✅ `channel.lean//instructions`: **-718.5M** (**-1.8%**)
- 🟥 `const_fold//instructions`: **+809.2M** (**+10.8%**)
- 🟥 `deriv//instructions`: **+430.6M** (**+6.1%**)
- 🟥 `grind_bitvec2.lean//instructions`: **+15.3G** (**+7.9%**)
- 🟥 `grind_list2.lean//instructions`: **+4.7G** (**+7.6%**)
- 🟥 `grind_ring_5.lean//instructions`: **+610.2M** (**+6.7%**)
- 🟥 `hashmap.lean//instructions`: **+282.4M** (**+7.8%**)
- 🟥 `identifier auto-completion//instructions`: **+4.7G** (**+6.1%**)
- 🟥 `ilean roundtrip//instructions`: **+1.4G** (**+5.5%**)
- 🟥 `iterators (elab)//instructions`: **+216.8M** (**+6.0%**)
- 🟥 `iterators (interpreted)//instructions`: **+1.1G** (**+3.3%**)
- 🟥 `lake build clean//instructions`: **+42.9G** (**+2.0%**)
- 🟥 `lake build no-op//instructions`: **+223.8M** (**+3.7%**)
- 🟥 `lake config elab//instructions`: **+89.1M** (**+2.8%**)
- ✅ `lake config import//instructions`: **-27.4M** (**-1.7%**)
- ✅ `lake config tree//instructions`: **-25.3M** (**-1.5%**)
- ✅ `lake env//instructions`: **-29.9M** (**-1.8%**)
- 🟥 `lake startup//instructions`: **+4.1M** (**+1.6%**)
- 🟥 `language server startup with ileans//instructions`: **+1.2G** (**+5.5%**)
- 🟥 `language server startup//instructions`: **+10.3M** (**+2.2%**)
- 🟥 `liasolver//instructions`: **+261.6M** (**+6.6%**)
- 🟥 `mut_rec_wf//instructions`: **+2.2G** (**+7.1%**)
- 🟥 `nat_repr//instructions`: **+131.0M** (**+3.9%**)
- 🟥 `omega_stress.lean async//instructions`: **+322.7M** (**+6.3%**)
- 🟥 `parser//instructions`: **+3.2G** (**+6.4%**)
- 🟥 `phashmap.lean//instructions`: **+544.3M** (**+5.6%**)
- 🟥 `qsort//instructions`: **+1.1G** (**+7.0%**)
- 🟥 `rbmap//instructions`: **+1.2G** (**+8.6%**)
- 🟥 `rbmap_1//instructions`: **+1.0G** (**+7.3%**)
- 🟥 `rbmap_10//instructions`: **+1.2G** (**+8.5%**)
- 🟥 `rbmap_fbip//instructions`: **+666.6M** (**+9.7%**)
- 🟥 `rbmap_library//instructions`: **+615.2M** (**+4.7%**)
- 🟥 `reduceMatch//instructions`: **+1.1G** (**+6.2%**)
- 🟥 `riscv-ast.lean//instructions`: **+10.0G** (**+7.7%**)
- 🟥 `simp_arith1//instructions`: **+115.9M** (**+3.6%**)
- 🟥 `simp_bubblesort_256//instructions`: **+1.1G** (**+7.5%**)
- 🟥 `simp_congr//instructions`: **+1.4G** (**+7.4%**)
- 🟥 `simp_local//instructions`: **+4.8G** (**+8.5%**)
- 🟥 `simp_subexpr//instructions`: **+1.1G** (**+7.6%**)
- 🟥 `tests/bench/ interpreted//instructions`: **+7.8G** (**+3.6%**)
- ✅ `tests/compiler//sum binary sizes`: **-20.8M** (**-1.1%**)
- 🟥 `treemap.lean//instructions`: **+527.5M** (**+2.4%**)
- 🟥 `unionfind//instructions`: **+1.7G** (**+7.2%**)
- 🟥 `workspaceSymbols with new ranges//instructions`: **+53.5M** (**+7.2%**)
- 🟥 `workspaceSymbols//instructions`: **+1.4G** (**+5.5%**)
</details>
<details open>
<summary>Minor changes (3)</summary>

- 🟥 `iterators (compiled)//instructions`: **+4.0M** (**+0.8%**)
- 🟥 `sigma iterator//instructions`: **+3.0G** (**+7.5%**)
- ✅ `size/libleanshared.so//bytes`: **-514kiB** (**-0.3%**)
</details>

**Comment by hargoniX** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/4a93cecb755ca725f839c2637c7cf6bd9cdd65bd?reference=edcef51434804e6432c02f42ef364cb13f9149b2) for 4a93cecb755ca725f839c2637c7cf6bd9cdd65bd against edcef51434804e6432c02f42ef364cb13f9149b2 are in! @Garmelon @hargoniX
<details open>
<summary>Major changes (2)</summary>

- 🟥 `build//instructions`: **+41.7G** (**+0.3%**)
- 🟥 `channel.lean//instructions`: **+1.8G** (**+4.7%**)
</details>
<details open>
<summary>Minor changes (2)</summary>

- 🟥 `iterators (elab)//instructions`: **+37.7M** (**+1.0%**)
- ✅ `size/libleanshared.so//bytes`: **-486kiB** (**-0.2%**)
</details>

**Comment by hargoniX** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/28d874c30d761690997b6443a6f04ef15cc6447b?reference=edcef51434804e6432c02f42ef364cb13f9149b2) for 28d874c30d761690997b6443a6f04ef15cc6447b against edcef51434804e6432c02f42ef364cb13f9149b2 are in! @hargoniX
<details open>
<summary>Major changes (1)</summary>

- 🟥 `build//instructions`: **+42.7G** (**+0.3%**)
</details>
<details open>
<summary>Minor changes (3)</summary>

- 🟥 `Init.Data.BitVec.Lemmas re-elab//instructions`: **+4.3G** (**+0.5%**)
- 🟥 `channel.lean//instructions`: **+268.8M** (**+0.7%**)
- 🟥 `iterators (elab)//instructions`: **+37.7M** (**+1.0%**)
</details>

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase edcef51434804e6432c02f42ef364cb13f9149b2 --onto 5bd331e85d9d110a29fb3367dbb21854010ffcbd`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-03 13:32:42)
- ✅ Mathlib branch [lean-pr-testing-11479](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11479) has successfully built against this PR. (2025-12-05 11:42:10) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19960455018)
- ✅ Mathlib branch [lean-pr-testing-11479](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11479) has successfully built against this PR. (2025-12-08 12:49:20) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20027035817)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c1bc886d98e8764ba93761cdf4698a596e1e7e32 --onto 0708024c4649f11da1276d8b6d4345972a9dc57c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-17 11:08:15)

**Comment by hargoniX** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/91927dbce96dd975237d307d860683a68514a745?reference=edcef51434804e6432c02f42ef364cb13f9149b2) for 91927dbce96dd975237d307d860683a68514a745 against edcef51434804e6432c02f42ef364cb13f9149b2 are in! @hargoniX
<details open>
<summary>Major changes (2)</summary>

- 🟥 `build//instructions`: **+50.0G** (**+0.4%**)
- 🟥 `channel.lean//instructions`: **+835.2M** (**+2.2%**)
</details>
<details open>
<summary>Minor changes (2)</summary>

- 🟥 `iterators (elab)//instructions`: **+37.7M** (**+1.0%**)
- 🟥 `size/all/.olean//bytes`: **+963kiB** (**+0.3%**)
</details>

File: src/Lean/Compiler/LCNF/Specialize.lean [hunk 1]
```diff
@@ -199,13 +218,46 @@ end Collector
...
+           ...
+           HashMap.get? inst1 inst2 xs ys
+        ```
+        Here the call to `HashMap.get?` will not be specialized unless `test` is specialized. Thus,
+        even when `f` is just going to be re-abstracted, it makes sense to specialize a call to `test`
+        that closes over parameters, in order to optimize the `HashMap` invocation.
+
+        We thought about lifting this restriction and instead always specializing `@[specialize]`
+        decls twice, once at their definition site and once at their call site. However, almost all
+        `@[specialize]` function declarations will indeed get specialized properly. Hence keeping
```
Comment (Kha) [inline src/Lean/Compiler/LCNF/Specialize.lean]: Elaborate on "properly", i.e. what happens for the others?

File: stage0/src/stdlib_flags.h [hunk 2]
```diff
@@ -1,5 +1,7 @@
 #include "util/options.h"
 
+// please update thy
```
Comment (Kha) [inline stage0/src/stdlib_flags.h:3]: thy will be done

**Review by Kha — APPROVED** [review]

**Comment by hargoniX** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/790dd914400edcb6ae04fb035137afe7be060b7b?reference=c1bc886d98e8764ba93761cdf4698a596e1e7e32) for 790dd914400edcb6ae04fb035137afe7be060b7b against c1bc886d98e8764ba93761cdf4698a596e1e7e32 are in! @hargoniX
<details open>
<summary>Major changes (1)</summary>

- 🟥 `build//instructions`: **+54.0G** (**+0.4%**)
</details>
<details open>
<summary>Minor changes (2)</summary>

- 🟥 `iterators (elab)//instructions`: **+30.7M** (**+0.8%**)
- 🟥 `size/all/.olean//bytes`: **+986kiB** (**+0.3%**)
</details>
